US07470699B2
Preparation of 1-{4-[6-(2-Fluoro-4-methanesulfonyl-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidin-1-yl}-butan-2-one (Compound C93)
4-(2-Fluoro-4-methanesulfonyl-phenoxy)-5-methyl-6-(piperidin-4-yloxy)-pyrimidine hydrochloride salt (42 mg, 0.1 mmol), 1-bromo-butan-2-one (0.1 mmol, 1 eq), and triethylamine (0.2 mmol, 2 eq) were dissolved in DMF (1 mL) and then stirred at room temperature overnight. The crude was filtered and then purified via prep-LCMS 5-95% to provide Compound C93 as an oil (39.6 mg, 88%). Exact mass calculated for C21H26FN3O5S 451.2, found 452.3 (MH+).

reactant | 4-(2-Fluoro-4-methanesulfonyl-phenoxy)-5-methyl-6-(piperidin-4-yloxy)-pyrimidine hydrochloride salt | 0.1 mmol, 42 mg | Cl.FC1=C(OC2=NC=NC(=C2C)OC2CCNCC2)C=CC(=C1)S(=O)(=O)C
reactant | 1-bromo-butan-2-one | 0.1 mmol, 1 eq | BrCC(CC)=O | C4H7BrO
reactant | triethylamine | 0.2 mmol, 2 eq | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-{4-[6-(2-Fluoro-4-methanesulfonyl-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidin-1-yl}-butan-2-one | 39.6 mg, 88% | FC1=C(OC2=C(C(=NC=N2)OC2CCN(CC2)CC(CC)=O)C)C=CC(=C1)S(=O)(=O)C | C21H26FN3O5S
